US05189054
Scheme I, step c: 3-[(phenacyl)amino]-2-carbethoxy-5,6-dichloroindole
Dissolve 3-amino-2-carbethoxy-5,6-dichloroindole (2.2 g, 8 mmol) in methylene chloride (70 mL) and add triethylamine (1.16 mL, 8 mmol) followed by benzoyl chloride (0.93 mL, 8 mmol). Stir the reaction 48 hours at room temperature. Dilute the reaction with ethyl acetate (300 mL), wash with water (100 mL), dry the organic phase over magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from ethyl acetate/hexane to yield the title compound.

reactant | 3-amino-2-carbethoxy-5,6-dichloroindole | 8 mmol, 2.2 g | NC1=C(NC2=CC(=C(C=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
reactant | triethylamine | 8 mmol, 1.16 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 8 mmol, 0.93 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-[(phenacyl)amino]-2-carbethoxy-5,6-dichloroindole | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=C(C=C12)Cl)Cl)C(=O)OCC | C19H16Cl2N2O3
